US08735417B2
To 4-[5-(3-methyl-5-{[4-(methylsulfanyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (0.94 g, 2.204 mmol) stirring in dichloromethane (11 mL) at room temperature was added 3-chloroperbenzoic acid (1.587 g, 7.08 mmol). Stirred for 4 hr. at room temperature, diluted with 10% Na2S2O3 (aq.), and washed with sat. NaHCO3 (aq.) and brine. The organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purified by CombiFlash (100:0 to 0:20 dichloromethane:methanol) to afford impure 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (0.188 g, 0.411 mmol, 18.6% yield) as an orange solid (contaminated with starting material). MS APCI: [M+H]+ m/z 459.1

reactant | 4-[5-(3-methyl-5-{[4-(methylsulfanyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 2.204 mmol, 0.94 g | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)SC)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6OS2
reactant | 3-chloroperbenzoic acid | 7.08 mmol, 1.587 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.411 mmol, 0.188 g, 18.6% yield | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)S(=O)(=O)C)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6O3S2
